US07186734B2
To an ice-cooled solution of 5-{[(3-butyl-5-chloro-2-o-tolyl-3H-imidazol-4-ylmethyl)-(3-methyl-butyl)-amino]-methyl}-1H-indole (173 mg, 0.363 mmol) in 5 ml of anhydrous acetonitrile under nitrogen is added a solution of chlorosulfonyl isocyanate (69.5 mg, 0.491 mmol, 1.35 eq.) in 1 ml of acetonitrile, after stirring for 20 min, a solution of DMF (30.1 mg) in 2 ml of acetonitrile is added dropwise, stirred for additional 1 h. The reaction mixture is poured into ice water and basified with diluted ammonium hydroxide solution; the mixture is extracted with dichloromethane, dried over sodium sulfate. The solvent is evaporated; the residue is purified through flash chromatography to give 11 mg of 5-{[(3-butyl-5-chloro-2-o-tolyl-3H-imidazol-4-ylmethyl)-(3-methyl-butyl)-amino]-methyl}-1H-indole-3-carbonitrile as white solid. 1H NMR (400 MHz, CDCl3) δ 7.63 (1H, s), 7.38 (1H, d, J=3 Hz), 7.15˜7.36 (4H, m), 7.07 (1H, dd, J=1.2, 8.4 Hz), 6.89˜6.93 (2H, m), 3.73 (2H, t, J=7.5 Hz), 3.65 (2H, s), 3.57 (2H, s), 2.55 (2H, d, J=6.9 Hz), 2.02 (3H, s), 1.62 (1H, m), 1.46 (2H, q, J=6.6 Hz), 1.14 (2H,m), 0.85 (6H, d, J=6.6 Hz), 0.75 (2H, m), 0.51 (3H, t, J=7.2 Hz); MS (+VE) m/z 502 (M+1).

reactant | 5-{[(3-butyl-5-chloro-2-o-tolyl-3H-imidazol-4-ylmethyl)-(3-methyl-butyl)-amino]-methyl}-1H-indole | 0.363 mmol, 173 mg | C(CCC)N1C(=NC(=C1CN(CCC(C)C)CC=1C=C2C=CNC2=CC1)Cl)C1=C(C=CC=C1)C | C29H37ClN4
reactant | chlorosulfonyl isocyanate | 0.491 mmol, 69.5 mg, 1.35 eq. | ClS(=O)(=O)N=C=O | CClNO3S
reactant | DMF | 30.1 mg | CN(C)C=O | C3H7NO
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 5-{[(3-butyl-5-chloro-2-o-tolyl-3H-imidazol-4-ylmethyl)-(3-methyl-butyl)-amino]-methyl}-1H-indole-3-carbonitrile | 11 mg | C(CCC)N1C(=NC(=C1CN(CCC(C)C)CC=1C=C2C(=CNC2=CC1)C#N)Cl)C1=C(C=CC=C1)C | C30H36ClN5
